US07420055B2
N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-(2,4-dimethyl-[1,3]dioxolan-2-yl)-benzenesulfonamide
The title compound was prepared using 4-Acetyl-N-[4-chloro-2-(hydroxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide and propane-1,2-diol following the procedure described in the preceding example. MS: m/z 473 M++1).

reactant | 4-Acetyl-N-[4-chloro-2-(hydroxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=NC=C1)O | C20H17ClN2O4S
reactant | propane-1,2-diol | C(C(C)O)O | C3H8O2
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-(2,4-dimethyl-[1,3]dioxolan-2-yl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1(OCC(O1)C)C)C(=O)C1=CC=NC=C1 | C23H21ClN2O5S
